US07276601B2
Preparation of 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6-cyano-8-methyl-4H-3,1-benzoxazin-4-one by inverse addition
A mixture of 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid (97.9% purity, 3.09 g, 10.0 mmol), 6-cyano-8-methyl-1H-benzo[d][1,3]oxazine-2,4-dione (96.3% purity, 2.10 g, 10.0 mmol) and 3-picoline (3.30 mL, 3.16 g, 34 mmol) in acetonitrlle (65 mL) was cooled to about −5° C. Then methanesulfonyl chloride (1.0 mL, 1.5 g, 13 mmol) in acetonitrile (3 mL) was added dropwise at −5 to 0° C. After 15 minutes at −5 to 0° C., the reaction mixture was heated to 50° C. for 4 hours. The reaction mixture was then cooled to room temperature, water (4 mL) was added dropwise, and the reaction mixture was stirred 15 minutes. The mixture was filtered, and the solids were washed sequentially with 4:1 acetonitrile-water (2×2 mL) and acetonitrile (3×2 mL), and dried under nitrogen to afford the title product as a pale green powder, 3.71 g (94.2% purity by HPLC, 82.0% yield calculated based on the purity), melting at 263-267° C.

reactant | 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid | 10.0 mmol, 3.09 g | BrC1=NN(C(=C1)C(=O)O)C1=NC=CC=C1Cl | C9H5BrClN3O2
reactant | 6-cyano-8-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | 10.0 mmol, 2.10 g | C(#N)C1=CC2=C(NC(OC2=O)=O)C(=C1)C | C10H6N2O3
reactant | 3-picoline | 34 mmol, 3.30 mL, 3.16 g | N1=CC(=CC=C1)C | C6H7N
reactant | methanesulfonyl chloride | 13 mmol, 1.0 mL, 1.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | 4 mL | O | H2O
product | 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6-cyano-8-methyl-4H-3,1-benzoxazin-4-one | 82.0% yield | BrC1=NN(C(=C1)C1=NC2=C(C(O1)=O)C=C(C=C2C)C#N)C2=NC=CC=C2Cl | C18H9BrClN5O2
